US07057046B2
(R)-3-t-butyloxycarbonylamino-3,4-dihydrocarbostyril (178 mg) was dissolved in 4 M hydrogen chloride in 1,4-dioxane solution (10 mL) at 0° C. After 1 h the solution was slowly warmed to room temperature over 2 h. The solvent was evaporated under vacuum, and the residue was twice taken up in toluene (10 mL) and evaporated under vacuum to provide (R)-3-amino-3,4-dihydrocarbostyril hydrochloride, a white solid (132 mg).

reactant | (R)-3-t-butyloxycarbonylamino-3,4-dihydrocarbostyril | 178 mg | C(C)(C)(C)OC(=O)N[C@H]1C(NC2=CC=CC=C2C1)=O | C14H18N2O3
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-3-amino-3,4-dihydrocarbostyril hydrochloride | Cl.N[C@H]1C(NC2=CC=CC=C2C1)=O | InChI=1S/C9H10N2O.ClH/c10-7-5-6-3-1-2-4-8(6)11-9(7)12;/h1-4,7H,5,10H2,(H,11,12);1H/t7-;/m1./s1
